US05929085
(g) N-(3,4,5,6,11,11a-Hexahydro-1H-[1,4]oxazino[4,3-b]isoquinolin-8-yl)-2-thiophenecarboximidamide
To a stirred mixture of 3,4,5,6,11,11a-hexahydro-1H-[1,4]oxazino[4,3-b]isoquinolin-8-amine dihydrochloride (0.461 g, 1.66 mmol) and methyl sulfoxide (5 ml) was added pyridine (0.28 ml) followed by S-methyl-2-thiophenethiocarboximide hydroiodide (0.612 g). The mixture was heated at 50° C., with stirring, for 4 h. The reaction mixture was then poured into water (50 ml) and, after stirring for 1 hour, the mixture was clarified by filtration. The filtrate was basified with concentrated ammonium hydroxide to precipitate the product as a solid. The product was isolated, washed with water and dried; yield 0.4917 g, m.p. 190-4° C., MS 314 (M+H)+.

reactant | 3,4,5,6,11,11a-hexahydro-1H-[1,4]oxazino[4,3-b]isoquinolin-8-amine dihydrochloride | 1.66 mmol, 0.461 g | Cl.Cl.C1OCCN2CC=3C=C(C=CC3CC21)N
reactant | methyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | pyridine | 0.28 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | N-(3,4,5,6,11,11a-Hexahydro-1H-[1,4]oxazino[4,3-b]isoquinolin-8-yl)-2-thiophenecarboximidamide | C1OCCN2CC=3C=C(C=CC3CC21)NC(=N)C=2SC=CC2 | C17H19N3OS
